US07214802B2
N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-{4-[2-(2,2-dimethyl-propionyl)-3-methyl-3H-imidazol-4-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide
Example 30 was prepared from 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide and 1-(5-ethynyl-1-methyl-1H-imidazol-2-yl)-2,2-dimethyl-propan-1-one in the same manner as Example 15. ESI MS m/z 622 [C31H39N7O5S+H]+.

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4-methyl-benzamide | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=CC1C | C20H25N5O4S
reactant | 1-(5-ethynyl-1-methyl-1H-imidazol-2-yl)-2,2-dimethyl-propan-1-one | C(#C)C1=CN=C(N1C)C(C(C)(C)C)=O | C11H14N2O
product | N-(5-tert-Butyl-3-methanesulfonylamino-2-methoxy-phenyl)-3-{4-[2-(2,2-dimethyl-propionyl)-3-methyl-3H-imidazol-4-yl]-[1,2,3]triazol-1-yl}-4-methyl-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)N1N=NC(=C1)C=1N(C(=NC1)C(C(C)(C)C)=O)C)=O)OC)NS(=O)(=O)C | C31H39N7O5S
